US08629137B2
1-{1-[6-(7-methyl-2-oxo-2,3-dihydro-1H-indol-5-carbonyl)-pyrimidin-4-yl]-piperidin-4-yl}-1,3-dihydro-imidazo[4,5-b]pyridin-2-one
91 mg (0.42 mmol) 1-piperidin-4-yl-1,3-dihydroimidazo[4,5-b]pyridin-2-one, 120 mg (0.42 mmol) 5-(6-chloro-pyrimidine-4-carbonyl)-7-methyl-1,3-dihydro-indol-2-one and 0.080 mL (0.46 mmol) DIPEA were combined in 2 mL DMF and shaken overnight at RT. Then the reaction mixture was in taken up acetonitrile/water and purified by preparative HPLC-MS. The fractions containing the product were combined and freeze-dried.

reactant | 1-piperidin-4-yl-1,3-dihydroimidazo[4,5-b]pyridin-2-one | 0.42 mmol, 91 mg | N1CCC(CC1)N1C(NC2=NC=CC=C21)=O | C11H14N4O
reactant | 5-(6-chloro-pyrimidine-4-carbonyl)-7-methyl-1,3-dihydro-indol-2-one | 0.42 mmol, 120 mg | ClC1=CC(=NC=N1)C(=O)C=1C=C2CC(NC2=C(C1)C)=O | C14H10ClN3O2
reactant | DIPEA | 0.46 mmol, 0.080 mL | CCN(C(C)C)C(C)C | C8H19N
reactant | acetonitrile water | C(C)#N.O
solvent | DMF | 2 mL | CN(C)C=O | C3H7NO
product | 1-{1-[6-(7-methyl-2-oxo-2,3-dihydro-1H-indol-5-carbonyl)-pyrimidin-4-yl]-piperidin-4-yl}-1,3-dihydro-imidazo[4,5-b]pyridin-2-one | CC=1C=C(C=C2CC(NC12)=O)C(=O)C1=CC(=NC=N1)N1CCC(CC1)N1C(NC2=NC=CC=C21)=O | C25H23N7O3
